US05965550
By the method of example 1, testosterone (2.88 g, 10 mM), potassium tert-butoxide (3.40 g, 30 mM) and isopropylnitrate (1.01 ml) are reacted to yield 17β-hydroxy-4-nitroandrost-4-en-3-one, m.p. 158-160° C. (acetone-hexane)

reactant | testosterone | 10 mM, 2.88 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2O)CCC4=CC(=O)CC[C@]34C | C19H28O2
reactant | potassium tert-butoxide | 30 mM, 3.40 g | CC(C)([O-])C.[K+]
reactant | isopropylnitrate | 1.01 ml | C(C)(C)O[N+](=O)[O-] | C3H7NO3
solvent | acetone hexane | CC(=O)C.CCCCCC
product | 17β-hydroxy-4-nitroandrost-4-en-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=C(C(CC[C@]3(C)[C@H]1CC2)=O)[N+](=O)[O-] | C19H27NO4
